US08541575B2
4-Bromo-3-(2,6-difluoro-3-nitrophenyl)-1-methyl-1H-pyrazole
To a mixture of 4-bromo-5-(2,6-difluoro-3-nitrophenyl)-1H-pyrazole (0.88 g, 2.9 mmol) and methyl iodide (2 mL, 32 mmol) in dichloromethane (20 mL), tetrabutylammonium bromide (0.32 g, 1 mmol) in 7 N sodium hydroxide (20 mL) was added and the mixture was rapidly stirred at room temperature for 3 h. The phases were separated and the organic layer was washed with water, dried over anhydrous sodium sulfate and concentrated. The crude residue was purified by flash chromatography (eluant: dichloromethane/petroleum ether 2:1). The title compound, mixture of the two regioisomers, was obtained as a waxy solid (0.53 g, 57%).

reactant | 4-bromo-5-(2,6-difluoro-3-nitrophenyl)-1H-pyrazole | 2.9 mmol, 0.88 g | BrC=1C=NNC1C1=C(C(=CC=C1F)[N+](=O)[O-])F | C9H4BrF2N3O2
reactant | methyl iodide | 32 mmol, 2 mL | CI | CH3I
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
catalyst | tetrabutylammonium bromide | 1 mmol, 0.32 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | sodium hydroxide | 7 N, 20 mL | [OH-].[Na+]
product | 4-Bromo-3-(2,6-difluoro-3-nitrophenyl)-1-methyl-1H-pyrazole | 0.53 g, 57% | BrC=1C(=NN(C1)C)C1=C(C(=CC=C1F)[N+](=O)[O-])F | C10H6BrF2N3O2
